US06936608B2
e) 3-tert-Butyl-7-[4-fluoro-3-(pyridin-2-yl)phenyl]imidazo[1,2-b][1,2,4]triazine
This compound was prepared in 29% yield as described in the final paragraph of Example 2, step d, but using 7-bromo-3-tert-butylimidazo[1,2-b][1,2,4]triazine instead of 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine, and using 4-fluoro-3-(pyridin-2-yl)phenylboronic acid instead of 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile: 1H NMR (400 MHz, CDCl3) δ 1.50 (9H, s), 7.29-7.33 (2H, m), 7.80 (1H, m), 7.86 (1H, m), 8.07 (1H, m), 8.25 (1H, s), 8.59 (1H, s), 8.66 (1H, dd, J 2.3, 7.4 Hz), 8.77 (1H, m); MS (ES+) m/z 348 M+H]+. Anal. Found: C, 66.95; H, 5.15; N, 19.00%. Required for C20H18FN5.0.75H2O: C, 66.56; H, 5.45; N, 19.41%.

reactant | 7-bromo-3-tert-butylimidazo[1,2-b][1,2,4]triazine | BrC1=CN=C2N1N=CC(=N2)C(C)(C)C | C9H11BrN4
reactant | 4-fluoro-3-(pyridin-2-yl)phenylboronic acid | FC1=C(C=C(C=C1)B(O)O)C1=NC=CC=C1 | C11H9BFNO2
product | 3-tert-Butyl-7-[4-fluoro-3-(pyridin-2-yl)phenyl]imidazo[1,2-b][1,2,4]triazine | 29% yield | C(C)(C)(C)C1=NC=2N(N=C1)C(=CN2)C2=CC(=C(C=C2)F)C2=NC=CC=C2 | C20H18FN5
